US07645789B2
To a solution of 1-(4-methoxy-phenyl)-cyclopropanecarboxylic acid methyl ester (30.0 g, 146 mmol) in Ac2O (300 mL) was added a solution of HNO3 (14.1 g, 146 mmol, 65%) in AcOH (75 mL) at 0° C. The reaction mixture was stirred at 0˜5° C. for 3 h before aq. HCl (20%) was added dropwise at 0° C. The resulting mixture was extracted with EtOAc (200 mL×3). The organic layer was washed with sat. aq. NaHCO3 then brine, dried over anhydrous Na2SO4 and evaporated under vacuum to give 1-(4-methoxy-3-nitro-phenyl)-cyclopropanecarboxylic acid methyl ester (36.0 g, 98%), which was directly used in the next step. 1H NMR (CDCl3, 300 MHz) δ 7.84 (d, J=2.1 Hz, 1H), 7.54 (dd, J=2.1, 8.7 Hz, 1H), 7.05 (d, J=8.7 Hz, 1H), 3.97 (s, 3H), 3.65 (s, 3H), 1.68-1.64 (m, 2H), 1.22-1.18 (m, 2H).

reactant | 1-(4-methoxy-phenyl)-cyclopropanecarboxylic acid methyl ester | 146 mmol, 30.0 g | COC(=O)C1(CC1)C1=CC=C(C=C1)OC | C12H14O3
reactant | HNO3 | 146 mmol, 14.1 g | [N+](=O)(O)[O-] | HNO3
reactant | HCl | Cl | ClH
solvent | Ac2O | 300 mL | CC(=O)OC(=O)C | C4H6O3
solvent | AcOH | 75 mL | CC(=O)O | C2H4O2
product | 1-(4-methoxy-3-nitro-phenyl)-cyclopropanecarboxylic acid methyl ester | 36.0 g, 98% | COC(=O)C1(CC1)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C12H13NO5
